US05661159
A mixture of 2-(2,4-diformylphenoxymethyl)quinoline (164.6 mg) and sodium methoxide (140 mg) in methanol (10.5 ml) was stirred under reflux for 30 minutes. The reaction mixture was concentrated under reduced pressure, and to the residue was added water and chloroform. The separated organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a crude residue. The residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and n-hexane (1:10). The fractions containing object compound were combined and concentrated under reduced pressure to give 2-(5-formylbenzofuran-2-yl)quinoline (31 mg).

reactant | 2-(2,4-diformylphenoxymethyl)quinoline | 164.6 mg | C(=O)C1=C(OCC2=NC3=CC=CC=C3C=C2)C=CC(=C1)C=O | C18H13NO3
reactant | sodium methoxide | 140 mg | C[O-].[Na+]
solvent | methanol | 10.5 ml | CO | CH4O
product | 2-(5-formylbenzofuran-2-yl)quinoline | 31 mg | C(=O)C=1C=CC2=C(C=C(O2)C2=NC3=CC=CC=C3C=C2)C1 | C18H11NO2
